US08030334B2
A flask is charged with 2-(5-aminomethyl-pyridin-3-yl)-1-methyl-1H-indole-3-carbonitrile (130 mg, 0.5 mmol), DBU (304 mg, 2.0 mmol) and DCE (15 mL), and isopropylsulfonyl chloride (142 mg, 1.0 mmol) is added. The mixture is stirred at room temperature for 1 h and concentrated in vacuo. The residue is purified by silica gel flash chromatography (dichloromethane-methanol, 1:0 to 97:3) to give propane-2-sulfonic acid [5-(3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-amide. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.24 (d, J=6.8 Hz, 6H), 3.18-3.26 (m, 1H), 3.79 (s, 3H), 4.37 (d, J=6.1 Hz, 2H), 7.34-7.38 (m, 1H), 7.41-7.46 (m, 1H), 7.70-7.79 (m, 3H), 8.08 (t, J=2.0 Hz, 1H), 8.77 (d, J=2.3 Hz, 1H), 8.81 (d, J=2.3 Hz, 1H). HRMS (ESI) m/z 369.1389 [(M+H)+ Calcd for C19H21N4O2S: 369.1385].

reactant | 2-(5-aminomethyl-pyridin-3-yl)-1-methyl-1H-indole-3-carbonitrile | 0.5 mmol, 130 mg | NCC=1C=C(C=NC1)C=1N(C2=CC=CC=C2C1C#N)C | C16H14N4
reactant | DBU | 2.0 mmol, 304 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isopropylsulfonyl chloride | 1.0 mmol, 142 mg | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
product | propane-2-sulfonic acid [5-(3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-amide | C(#N)C1=C(N(C2=CC=CC=C12)C)C=1C=C(C=NC1)CNS(=O)(=O)C(C)C | C19H20N4O2S
